US05661153
The obtained 6-amino-3-methyl-1-phenyluracil (24 g, 0.11M) and NaOH (2.8 g, 70 mM) were dissolved in 110 ml of water. To the resulting solution was added dropwise an aqueous solution of sodium nitrite (9.5 g/80 ml). Acetic acid (13 ml) was then added dropwise at 0° C. and the mixture was brought to room temperature, followed by stirring for 2 hours. A precipitated solid product was obtained by filtration. The solid product was washed successively with water and methanol and dried to yield 6-amino-3-methyl-5-nitroso-1-phenyluracil (yield: 27 g, or 99% based on 6-amino-3-methyl-1-phenyluracil).

reactant | 6-amino-3-methyl-1-phenyluracil | 0.11M, 24 g | NC1=CC(N(C(N1C1=CC=CC=C1)=O)C)=O | C11H11N3O2
reactant | NaOH | 70 mM, 2.8 g | [OH-].[Na+]
reactant | sodium nitrite | 80 ml, 9.5 g | N(=O)[O-].[Na+]
reactant | Acetic acid | 13 ml | C(C)(=O)O | C2H4O2
solvent | water | 110 ml | O | H2O
product | 6-amino-3-methyl-5-nitroso-1-phenyluracil | yield: 27 g, 99% | NC1=C(C(N(C(N1C1=CC=CC=C1)=O)C)=O)N=O | C11H10N4O3
